US06121201
A mixture of 5-amino-2-chloro-4-fluorophenol (0.64 g), powdered potassium hydroxide (0.24 g), and 2-chloro-3-nitropyridine (0.76 g) in dimethylsulfoxide (15 ml) was heated at 110° C. with stirring for 2 hours. The solution was processed and the resulting oil chromatographed on silica gel eluting with methanol:methylene chloride, 3:97, to yield 2-(5-amino-2-chloro-4-fluorophenoxy)-3-nitropyridine (Intermediate IIa) as a yellow semi-solid (0.45 g).

reactant | 5-amino-2-chloro-4-fluorophenol | 0.64 g | NC=1C(=CC(=C(C1)O)Cl)F | C6H5ClFNO
reactant | potassium hydroxide | 0.24 g | [OH-].[K+]
reactant | 2-chloro-3-nitropyridine | 0.76 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
solvent | dimethylsulfoxide | 15 ml | CS(=O)C | C2H6OS
product | 2-(5-amino-2-chloro-4-fluorophenoxy)-3-nitropyridine | 0.45 g | NC=1C(=CC(=C(OC2=NC=CC=C2[N+](=O)[O-])C1)Cl)F | C11H7ClFN3O3
